US09061030B2
A solution of ethyl 1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazole-3-carboxylate (Intermediate-3, 0.78 mmol) and sodium cyanide (0.1 equiv) in ammonia/MeOH (7N, 30 equiv, 3.4 mL) in a seal tube was heated at 90° C. for 24 h. The reaction mixture was cooled to room temperature, conc. and dried in vacuo to afford 1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazole-3-carboxamide as a tan solid (>99% yield).

reactant | ethyl 1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazole-3-carboxylate | 0.78 mmol | FC1=C(CN2N=C(N=C2C=2SC=CN2)C(=O)OCC)C=CC=C1 | C15H13FN4O2S
reactant | sodium cyanide | 0.1 equiv | [C-]#N.[Na+]
reactant | ammonia MeOH | 7N, 3.4 mL, 30 equiv | N.CO
product | 1-(2-fluorobenzyl)-5-(thiazol-2-yl)-1H-1,2,4-triazole-3-carboxamide | >99% yield | FC1=C(CN2N=C(N=C2C=2SC=CN2)C(=O)N)C=CC=C1 | C13H10FN5OS
